US07456200B2
Step 1: 5-(5-Chloro-2-fluoro-phenyl)-isoxazole-3-carbaldehyde:
In a 50 ml round bottom flask equipped with stir bar and drying tube added 5-(5-chloro-2-fluoro-phenyl)-isoxazole-3-carboxylic acid ethyl ester (0.78 g, 2.89 mmol) and dichloromethane (10 ml). Cooled the solution down to −78° C. and to this stirred solution added diisobutylaluminum hydride (1M hexanes, 5.3 ml, 5.3 mmol). The resulting mixture was left stirring at −78° C. for 3 h. Reaction was quenched using sodium sulfate decahydrate. The resulting mixture was stirred at 63° C. for 15 min after which it was filtered through a celite pad. The filterate was concentrated in-vacuo to isolate an off-white solid, which was triturated with hexanes to isolate the title compound as a white solid (0.55 g, 84%). 1H-NMR (CDCl3), d (ppm): 10.2 (s, 1H), 7.99 (m, 1H), 7.44 (m, 1H), 7.20 (m, 1H), 7.10 (d, 1H). Step 2: 1-[5-(5-Chloro-2-fluoro-phenyl)-isoxazol-3-yl]-ethanol: In a 50 ml round bottom flask equipped with stir bar added 5-(5-chloro-2-fluoro-phenyl)-isoxazole-3-carbaldehyde (0.5 g, 2.42 mmol) and tetrahydrofuran (6 ml). Cooled the mixture down to 0° C. and to it added methyl magnesium iodide (3M in diethyl ether, 3.23 ml, 9.67 mmol). The resulting mixture was left stirring at 0° C. for 3 h. Reaction mixture was quenched with hydrochloride acid (1N, aqueous, 10 ml), extracted with diethyl ether (3×50 ml). Combined organic phase was washed with water (50 ml), brine (50 ml), dried (sodium sulfate), filtered and concentrated in-vacuo. The crude residue was purified on silica gel using 10% ethyl acetate in hexanes to isolate the desired compound as clear oil (179 mg, 31%).

reactant | 5-(5-chloro-2-fluoro-phenyl)-isoxazole-3-carboxylic acid ethyl ester | 2.89 mmol, 0.78 g | C(C)OC(=O)C1=NOC(=C1)C1=C(C=CC(=C1)Cl)F | C12H9ClFNO3
reactant | diisobutylaluminum hydride | 5.3 mmol, 1M, 5.3 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(5-Chloro-2-fluoro-phenyl)-isoxazole-3-carbaldehyde | 0.55 g, 84% | ClC=1C=CC(=C(C1)C1=CC(=NO1)C=O)F | C10H5ClFNO2
